US07674789B2
3-[8-(2,6-difluorophenyl)-2-(hexahydro-1H-azepin-1-yl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide (50 mg, 0.10 mmol) in DCM (5 mL) was added hexahydro-1H-azepine (0.034 mL, 0.30 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM [90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (39 mg, 73%). LC-MS m/z 535 (M+H)+; 1H-NMR (MeOD) δ 1.27 (d, 6H), 1.47 (m, 6H), 1.70 (m, 2H), 2.31 (s, 3H), 3.32 (m, 2H), 3.68 (m, 2H), 4.11 (m, 2H), 4.23 (m, 1H), 7.13 (t, 2H), 7.44 (d, 1H), 7.48 (m, 1H), 7.69 (s, 1H), 7.85 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide | 0.10 mmol, 50 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)S(=O)C)=O | C24H23F2N5O3S
reactant | hexahydro-1H-azepine | 0.30 mmol, 0.034 mL | N1CCCCCC1 | C6H13N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-[8-(2,6-difluorophenyl)-2-(hexahydro-1H-azepin-1-yl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide | 39 mg, 73% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)N2CCCCCC2)=O | C29H32F2N6O2
